US07875639B2
5-(tetrahydro-2H-pyran-4-yl)thiazol-2-amine
A mixture of (tetrahydro-pyran-4-yl)-acetaldehyde (Pharmacore), pyrrolidine, p-toluenesulfonic acid monohydrate, sulfur and cyanamide were processed using the method described in Example 136A to obtain the title compound. MS (ESI+) m/z 185 (M+H)+.

reactant | (tetrahydro-pyran-4-yl)-acetaldehyde | O1CCC(CC1)CC=O | C7H12O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sulfur | [S] | S
reactant | cyanamide | N#CN | CH2N2
product | 5-(tetrahydro-2H-pyran-4-yl)thiazol-2-amine | O1CCC(CC1)C1=CN=C(S1)N | C8H12N2OS
